* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS1.asc
R1 N003 V1 2k
R2 VT N003 2k
V1 V1 0 0 AC 1
XU1 N003 N005 VT opamp Aol=100K GBW=10Meg
R3 N005 0 2k
C1 V1 N005 2µ
R4 N004 V1 2k
R5 Vh N004 1k
XU2 N004 N006 Vh opamp Aol=100K GBW=10Meg
R6 N006 0 2k
C2 V1 N006 2µ
R7 N001 V1 1k
R8 Vb N001 2k
XU3 N001 N002 Vb opamp Aol=100K GBW=10Meg
R9 N002 0 2k
C3 V1 N002 2µ
.ac dec 1000 1k 100meg
.inc opamp.sub
.inc opamp.sub
.inc opamp.sub
.backanno
.end
